US06903238B2
Step b) 3-Amino-5-hydroxy-2-(4-hydroxyphenyl)-1H-inden-1-one.
Boron tribromide (0.5 mL, 5.3 mmol) was added dropwise into a cold (−78° C.) mixture of 3-Amino-5-methoxy-2-(4-methoxyphenyl)-1H-inden-1-one (250 mg, 0.89 mmol), and dichloromethane (2.0 mL). The reaction mixture was allowed to come gradually to room temperature and stirred for 1 hour. The mixture was poured onto ice containing ammonium hydroxide (1 mL) and extracted with ethyl acetate. The organic extracts were washed with brine and were dried over MgSO4. Evaporation and flash chromatography (5%-10% ETOH/dichloromethane) gave (126 mg, 56% yield) of the product as a purple solid: mp 260-265° C.;

reactant | Boron tribromide | 5.3 mmol, 0.5 mL | B(Br)(Br)Br | BBr3
reactant | 3-Amino-5-methoxy-2-(4-methoxyphenyl)-1H-inden-1-one | 0.89 mmol, 250 mg | NC1=C(C(C2=CC=C(C=C12)OC)=O)C1=CC=C(C=C1)OC | C17H15NO3
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 3-Amino-5-hydroxy-2-(4-hydroxyphenyl)-1H-inden-1-one | 126 mg, 56% yield | NC1=C(C(C2=CC=C(C=C12)O)=O)C1=CC=C(C=C1)O | C15H11NO3
